US08445512B2
5.0 g (24.6 mmol) 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone was stirred together with 2.6 ml (24.6 mmol) 3-oxo-hexanoic acid ethyl ester and 5.6 g (24.6 mmol) tin(II) chloride dihydrate for 3 h at RT. The mixture was subsequently heated to 80° C. for 16 h. After cooling to RT, the mixture was diluted with EtOH (25 ml), ice was added and the mixture was stirred for 10 min at RT. The solution was subsequently filtered off and washed with EtOAc. The phases were separated and the aqueous phase was extracted with EtOAc. The organic phases were combined, washed with an aq. Na2-EDTA sol., water and brine, dried over MgSO4 and concentrated in a vacuum. After CC (DCM/hexane 2:1) of the residue, 4.3 g (13.7 mmol, 56%) 4-methyl-2-propyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester was obtained.

reactant | 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone | 24.6 mmol, 5.0 g | NC1=C(C=CC(=C1)C(F)(F)F)C(C)=O | C9H8F3NO
reactant | 3-oxo-hexanoic acid ethyl ester | 24.6 mmol, 2.6 ml | C(C)OC(CC(CCC)=O)=O | C8H14O3
reactant | tin(II) chloride dihydrate | 24.6 mmol, 5.6 g | O.O.[Sn](Cl)Cl
reactant | DCM hexane | C(Cl)Cl.CCCCCC
solvent | EtOH | 25 ml | CCO | C2H6O
product | 4-methyl-2-propyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester | 13.7 mmol, 4.3 g, 56% | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)CCC | C17H18F3NO2
